US08471005B2
3-(4-{2-[4-(1-Methyl-piperidin-4-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-pyrazol-1-yl)-propionitrile
(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1-methyl-piperidin-4-yl)-phenyl]-amine (1.00E2 mg, 0.259 mmol), and 3-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile (128 mg, 0.518 mmol) were reacted in an analogous manner to Example 881A at 80° C. for 8 h. The reaction mixture was purified via ISCO silica gel chromatography using an amine capped column 50-100% EtOAc in hexanes (32 mg, 29%). LCMS=427.0 (M+H), HPLC rt=1.889 min, 96% purity. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.32 (s, 1H), 8.88 (s, 1H), 8.54 (s, 1H), 8.27 (s, 1H), 7.65 (d, J=7.6 Hz, 2H), 7.25 (d, J=8.5 Hz, 2H), 7.08 (d, J=4.3 Hz, 1H), 6.91 (d, J=4.7 Hz, 1H), 4.47 (t, J=6.4 Hz, 2H), 3.16 (t, J=6.5 Hz, 2H), 2.87 (d, J=10.8 Hz, 2H), 2.46-2.40 (m, 1H), 2.19 (s, 3H), 1.96 (t, J=10.8 Hz, 2H), 1.76-1.62 (m, 4H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(1-methyl-piperidin-4-yl)-phenyl]-amine | 0.259 mmol, 1.00E2 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)C | C18H20BrN5
reactant | 3-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile | 0.518 mmol, 128 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)CCC#N)C | C12H18BN3O2
product | 3-(4-{2-[4-(1-Methyl-piperidin-4-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-pyrazol-1-yl)-propionitrile | CN1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NN(C2)CCC#N | C24H26N8
